US08703768B2
Step 1: Methyl 2-amino-5-(2-amino-2-oxoethoxy)benzoate
To a suspension of NaH (299 mg, 7.48 mmol) in DMF (20 ml) at 0° under argon atmosphere was added methyl 2-amino-5-hydroxybenzoate (1.25 g, 7.48 mmol) and 2-iodoacetamide (1.38 g, 7.48 mmol). The mixture was stirred at 0° for 1 hr and at r.t overnight. At 0° water was given to the reaction mixture. The product was extracted with EtOAc. The organic layers were dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel chromatography using a methylenchloride gradient to obtain the title compound (1.03 g, 64%) as off-white solid.

reactant | NaH | 7.48 mmol, 299 mg | [H-].[Na+]
reactant | methyl 2-amino-5-hydroxybenzoate | 7.48 mmol, 1.25 g | NC1=C(C(=O)OC)C=C(C=C1)O | C8H9NO3
reactant | 2-iodoacetamide | 7.48 mmol, 1.38 g | ICC(=O)N | C2H4INO
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Methyl 2-amino-5-(2-amino-2-oxoethoxy)benzoate | 1.03 g, 64% | NC1=C(C(=O)OC)C=C(C=C1)OCC(=O)N | C10H12N2O4
